US03993656
Preparation of N1 -(2-amino-5-acetamido-4,6-dimethylnicotinoyl)-N2 -benzenesulfonyl hydrazine
To a solution of 2-amino-5-acetamido-4,6-dimethylnicotinic acid hydrazide (34.4 g., 0.145 mole) in 1N sodium hydroxide solution (348 ml.) is added at ambient temperature and with vigorous stirring, benzenesulfonyl chloride (31.1 g., 0.16 mole) in one portion. After about three-quarters of an hour the acid chloride disappears; the maximum temperature attained by the reaction mixture, 36° C. The product is precipitated by pouring the reaction mixture into a stirred solution of acetic acid (8.3 ml.) in water (250 ml.). It is collected, slurried with water (150 ml.), refiltered and dried affording 49.52 g. (90%) of crude product, m.p. 216°-218° C. with gas evolution. Following purification by dissolving in hot (100° C.) dimethylformamide, filtering, and diluting with methanol (1 part) and water (3 parts) the product melts at 233°-234° C. (dec.).

reactant | 2-amino-5-acetamido-4,6-dimethylnicotinic acid hydrazide | 0.145 mole, 34.4 g | NC1=C(C(=O)NN)C(=C(C(=N1)C)NC(C)=O)C | C10H15N5O2
reactant | benzenesulfonyl chloride | 0.16 mole, 31.1 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | sodium hydroxide | 1N, 348 ml | [OH-].[Na+]
product | N1 -(2-amino-5-acetamido-4,6-dimethylnicotinoyl)-N2 -benzenesulfonyl hydrazine | NC1=C(C(=O)NNS(=O)(=O)C2=CC=CC=C2)C(=C(C(=N1)C)NC(C)=O)C | C16H19N5O4S
